US07598264B2
Step 8: N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]acetamide
To N-acetyl-N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]acetamide (0.149 g, 0.36 mmol) in MeOH (5 mL) cooled to 0° C. was added 30% weight solution NaOMe in MeOH (0.2 mL, 1.07 mmol). The reaction was warmed to room temperature for 40 minutes, then 1 N HCl was added (1.07 mL) and the reaction was concentrated, and CHCl3 and 10% KHSO4 were added. The layers were separated and the aqueous was extracted repeatedly. The organic layer was dried over Na2SO4, filtered, combined with the collected solid and evaporated to give the crude product.

reactant | N-acetyl-N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]acetamide | 0.36 mmol, 0.149 g | C(C)(=O)N(C(C)=O)C=1N(C(C(=C2C(N(CCC12)CC1=CC=C(C=C1)F)=O)OC)=O)C | C21H22FN3O5
reactant | NaOMe | C[O-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 1.07 mmol, 0.2 mL | CO | CH4O
product | N-[6-(4-fluorobenzyl)-4-methoxy-2-methyl-3,5-dioxo-2,3,5,6,7,8-hexahydro-2,6-naphthyridin-1-yl]acetamide | FC1=CC=C(CN2C(C3=C(C(N(C(=C3CC2)NC(C)=O)C)=O)OC)=O)C=C1 | C19H20FN3O4
